US04133686
(2) synthesis of 1-(2,4,6-Trichlorophenyl)-3-[2,4-dichloro-5-(4-aminophenoxy)anilino]-2-pyrazolin-5-one
In a solvent mixture of 100 ml of glacial acetic acid, 10 ml of methanol and 10 ml of water was dispersed 10 g of 1-(2,4,6-trichlorophenyl)-3-[2,4-dichloro-5-(4-nitrophenoxy)anilino]-2-pyrazolin-5-one prepared as described in Step (1) above. To the dispersion was added 10 g of iron powder with heating under stirring over a 10 minute period. The reaction mixture was poured into 1 l of water and the precipitate crystallized out was recovered by filtration to obtain 8 g of the desired compound.

reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | methanol | 10 ml | CO | CH4O
reactant | 1-(2,4,6-trichlorophenyl)-3-[2,4-dichloro-5-(4-nitrophenoxy)anilino]-2-pyrazolin-5-one | 10 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(CC1=O)NC1=C(C=C(C(=C1)OC1=CC=C(C=C1)[N+](=O)[O-])Cl)Cl | C21H11Cl5N4O4
catalyst | iron | 10 g | [Fe] | Fe
solvent | water | 1 l | O | H2O
solvent | water | 10 ml | O | H2O
product | 1-(2,4,6-Trichlorophenyl)-3-[2,4-dichloro-5-(4-aminophenoxy)anilino]-2-pyrazolin-5-one | 8 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(CC1=O)NC1=C(C=C(C(=C1)OC1=CC=C(C=C1)N)Cl)Cl | C21H13Cl5N4O2
